US05112835
After cooling 35 ml of tetradydrofuran to -70° C., 2.1 g (15 mmol) of 2,2,6,6-tetramethylpiperidine and 15 mmol of n-butyl lithium were successively added thereto to obtain a lithium tetramethylpiperidide solution. Separately, 2.04 g (15 mmol) of 1-[(2-t-butyldimethylsilyloxyethoxy)methyl]-6-phenylthiouracil was dissolved in 20 ml of tetrahydrofuran and added dropwise to the said lithium tetramethylpiperidide solution to react for an hour at -70° C. Then, a solution of 3.81 g (15 mmol) of iodine in 20 ml of tetrahydrofuran was further added to the reaction solution while maintaining the reaction temperature at -70° C. to react for an hour. After the completion of the reaction, the reaction solution was added to 0.8 ml of acetic acid, allowed to warm to room temperature and distributed between a chloroform layer and a saturated aqueous solution of sodium bicarbonate. The chloroform layer was concentrated to dryness. The residue was crystallized from petroleum ether to obtain 1.835 g of 1-[(2-t-butyldimethylsilyloxyethoxy)methyl]-5-iodo-6-phenylthiouracil (Yield: 62.8%).

reactant | 1-[(2-t-butyldimethylsilyloxyethoxy)methyl]-6-phenylthiouracil | 15 mmol, 2.04 g | [Si](C)(C)(C(C)(C)C)OCCOCN1C(=S)NC(=O)C=C1C1=CC=CC=C1 | C19H28N2O3SSi
reactant | lithium tetramethylpiperidide | [Li]N1C(CCCC1(C)C)(C)C
reactant | iodine | 15 mmol, 3.81 g | II | I2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 0.8 ml | C(C)(=O)O | C2H4O2
product | 1-[(2-t-butyldimethylsilyloxyethoxy)methyl]-5-iodo-6-phenylthiouracil | 1.835 g, Yield: 62.8% | [Si](C)(C)(C(C)(C)C)OCCOCN1C(=S)NC(=O)C(=C1C1=CC=CC=C1)I | C19H27IN2O3SSi
